US05451607
To a solution of lithium diisopropylamide (LDA) in THF (1 liter), which had been prepared from diisopropylamine (52 g) and a 1.6 M solution of n-butyl lithium in hexane (319 ml), was added dropwise a solution of ethyl 4-chlorophenylacetate (97.3 g) in THF (100 ml) at a temperature of -45° to -40° C. under an atmosphere of nitrogen gas. At the same temperature, the reaction mixture was stirred for 0.5 hours, and methyl iodide (73 g) was added dropwise thereto, followed by allowing the temperature to gradually increase to room temperature. The reaction mixture was poured into ice-water and extracted with ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was distilled under reduced pressure to give ethyl 2-(4-chlorophenyl)propionate (yield, 89.4 g), b.p., 108°-114° C. at 1.0 mmHg.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 52 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl 4-chlorophenylacetate | 97.3 g | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
reactant | methyl iodide | 73 g | CI | CH3I
solvent | THF | 1 liter | C1CCOC1 | C4H8O
solvent | hexane | 319 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethyl 2-(4-chlorophenyl)propionate | 89.4 g | ClC1=CC=C(C=C1)C(C(=O)OCC)C | C11H13ClO2
